US05095014
3-[2-Chloro-4-(trifluoromethyl)phenoxy]-N-(2-propenyl)-1-azetidinecarboxamide
A mixture of 2 g (0.0065 mole) of 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride and 0.9 g (0.0065 mole) of potassium carbonate in 20 ml of tetrahydrofuran was treated while stirring with 0.35 g (0.0065 mole) of 2-propenylamine. After stirring for 16 h, the reaction mixture was diluted with 100 ml of water whereupon an oil separated. The oil slowly solidified and was collected by filtration (2.3 g wet). The rose colored solid was recrystallized from benzene/ligroin yielding 1.7 g (78.1%) of beige crystals, mp 102°-104°.

reactant | 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.0065 mole, 2 g | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC(=C1)C(F)(F)F | C11H8Cl2F3NO2
reactant | potassium carbonate | 0.0065 mole, 0.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propenylamine | 0.0065 mole, 0.35 g | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3-[2-Chloro-4-(trifluoromethyl)phenoxy]-N-(2-propenyl)-1-azetidinecarboxamide | ClC1=C(OC2CN(C2)C(=O)NCC=C)C=CC(=C1)C(F)(F)F | C14H14ClF3N2O2
